US04434175
Ethyl-1,4-dimethyl-3-ethoxycarbonyl-5-(1-methylpyrrol-2-oyl)pyrrole-2-acetate (7 g) is dissolved in 20 ml of ethanol, aqueous 50% sodium hydroxide solution (50 ml) is added, and the resulting solution is heated at reflux for about one hour. It is cooled to room temperature, and acidified to yield a white precipitate which in turn is filtered and dried to afford 5.2 g of 1,4-dimethyl-3-hydroxycarbonyl-5-(1-methylpyrrol-2-oyl)pyrrole-2-acetic acid (a diacid). The diacid is partially esterified by treatment with 200 ml of ethanol containing 1.0 g of Bio-Rad® 50W×8 H+ resin at reflux for two hours. After filtration and removal of the excess ethanol, the crude product is purified by HPLC to yield 3.8 g (55%) of white crystalline ethyl 1,4-dimethyl-3-hydroxycarbonyl-5-(1-methylpyrrol-2-oyl)pyrrole-2-acetate.

reactant | Ethyl-1,4-dimethyl-3-ethoxycarbonyl-5-(1-methylpyrrol-2-oyl)pyrrole-2-acetate | 7 g | C(C)OC(CC=1N(C(=C(C1C(=O)OCC)C)C(=O)C=1N(C=CC1)C)C)=O | C19H24N2O5
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,4-dimethyl-3-hydroxycarbonyl-5-(1-methylpyrrol-2-oyl)pyrrole-2-acetic acid | 5.2 g | CN1C(=C(C(=C1C(=O)C=1N(C=CC1)C)C)C(=O)O)CC(=O)O | C15H16N2O5
